US04977162
61 g of benzal diacetate, 44.6 g of 4-methylsalicylic acid and 45 ml of acetic acid are combined and 5 drops of concentrated sulfuric acid are added and the mixture is heated under reduced pressure, allowing acetic acid to distill off. When the theoretical amount of acetic acid is collected (about 2.5 hours) the mixture is allowed to cool, diluted with ether and the ether solution washed with potassium carbonate solution, sodium bisulfite solution and dried over sodium sulfate. The ether is removed in vacuo and the resulting solid crystallized from ethyl acetate/hexane to give 7-methyl-1,3-benzodioxane-4-one.

reactant | benzal diacetate | 61 g | C(C)(=O)OC(C1=CC=CC=C1)OC(C)=O | C11H12O4
reactant | 4-methylsalicylic acid | 44.6 g | CC=1C=C(C(C(=O)O)=CC1)O | C8H8O3
catalyst | sulfuric acid | 5 drops | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 45 ml | C(C)(=O)O | C2H4O2
product | 7-methyl-1,3-benzodioxane-4-one | CC=1C=CC2=C(OCOC2=O)C1 | C9H8O3
